* two_port - lumped-element equivalent (ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT two_port p1 p2
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.01152203666
Fd1_1 0 s1 V1 -0.5761018332
Gr1_1_1 0 s1 x1_a1 0 3.719249573e+11
Gr2_re_1_1 0 s1 x2_re_a1 0 4.479773701e+11
Gr2_im_1_1 0 s1 x2_im_a1 0 1.26654924e+12
Gr3_re_1_1 0 s1 x3_re_a1 0 1209398275
Gr3_im_1_1 0 s1 x3_im_a1 0 -1212419346
Gr4_re_1_1 0 s1 x4_re_a1 0 2594373893
Gr4_im_1_1 0 s1 x4_im_a1 0 -3607149157
Gr5_re_1_1 0 s1 x5_re_a1 0 854409556.3
Gr5_im_1_1 0 s1 x5_im_a1 0 -4096586271
Gr6_re_1_1 0 s1 x6_re_a1 0 2.91482275e+10
Gr6_im_1_1 0 s1 x6_im_a1 0 -2.484685163e+10
Gr7_re_1_1 0 s1 x7_re_a1 0 1.762314586e+10
Gr7_im_1_1 0 s1 x7_im_a1 0 4384342001
Gd1_2 0 s1 p2 0 6.593548549e-05
Fd1_2 0 s1 V2 0.003296774274
Gr1_1_2 0 s1 x1_a2 0 -353051498.4
Gr2_re_1_2 0 s1 x2_re_a2 0 -3954194807
Gr2_im_1_2 0 s1 x2_im_a2 0 -4100348980
Gr3_re_1_2 0 s1 x3_re_a2 0 -1157835790
Gr3_im_1_2 0 s1 x3_im_a2 0 1240121831
Gr4_re_1_2 0 s1 x4_re_a2 0 2569352490
Gr4_im_1_2 0 s1 x4_im_a2 0 -3671471485
Gr5_re_1_2 0 s1 x5_re_a2 0 -787015744.1
Gr5_im_1_2 0 s1 x5_im_a2 0 4229918930
Gr6_re_1_2 0 s1 x6_re_a2 0 4969128554
Gr6_im_1_2 0 s1 x6_im_a2 0 1.192601989e+10
Gr7_re_1_2 0 s1 x7_re_a2 0 -5518740253
Gr7_im_1_2 0 s1 x7_im_a2 0 -1.353086241e+10
Cx1_a1 x1_a1 0 0.002471715245
Gx1_a1 0 x1_a1 p1 0 0.0001747766611
Fx1_a1 0 x1_a1 V1 0.008738833053
Rp1_a1 0 x1_a1 1e-09
Cx2_re_a1 x2_re_a1 0 0.000628342386
Gx2_re_a1 0 x2_re_a1 p1 0 8.886103241e-05
Fx2_re_a1 0 x2_re_a1 V1 0.004443051621
Rp2_re_re_a1 0 x2_re_a1 1e-09
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 1073225546
Cx2_im_a1 x2_im_a1 0 0.000628342386
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -1073225546
Rp2_im_im_a1 0 x2_im_a1 1e-09
Cx3_re_a1 x3_re_a1 0 0.03881034056
Gx3_re_a1 0 x3_re_a1 p1 0 0.005488610998
Fx3_re_a1 0 x3_re_a1 V1 0.2744305499
Rp3_re_re_a1 0 x3_re_a1 1e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 3.592719925e+10
Cx3_im_a1 x3_im_a1 0 0.03881034056
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -3.592719925e+10
Rp3_im_im_a1 0 x3_im_a1 1e-09
Cx4_re_a1 x4_re_a1 0 0.02816494014
Gx4_re_a1 0 x4_re_a1 p1 0 0.003983124033
Fx4_re_a1 0 x4_re_a1 V1 0.1991562017
Rp4_re_re_a1 0 x4_re_a1 1e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 2.788510804e+10
Cx4_im_a1 x4_im_a1 0 0.02816494014
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -2.788510804e+10
Rp4_im_im_a1 0 x4_im_a1 1e-09
Cx5_re_a1 x5_re_a1 0 0.02832231764
Gx5_re_a1 0 x5_re_a1 p1 0 0.004005380572
Fx5_re_a1 0 x5_re_a1 V1 0.2002690286
Rp5_re_re_a1 0 x5_re_a1 1e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 3.026109416e+10
Cx5_im_a1 x5_im_a1 0 0.02832231764
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -3.026109416e+10
Rp5_im_im_a1 0 x5_im_a1 1e-09
Cx6_re_a1 x6_re_a1 0 0.01004943133
Gx6_re_a1 0 x6_re_a1 p1 0 0.001421204207
Fx6_re_a1 0 x6_re_a1 V1 0.07106021037
Rp6_re_re_a1 0 x6_re_a1 1e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 1.189747778e+10
Cx6_im_a1 x6_im_a1 0 0.01004943133
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -1.189747778e+10
Rp6_im_im_a1 0 x6_im_a1 1e-09
Cx7_re_a1 x7_re_a1 0 0.01056929241
Gx7_re_a1 0 x7_re_a1 p1 0 0.001494723668
Fx7_re_a1 0 x7_re_a1 V1 0.07473618339
Rp7_re_re_a1 0 x7_re_a1 1e-09
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 1.242993984e+10
Cx7_im_a1 x7_im_a1 0 0.01056929241
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -1.242993984e+10
Rp7_im_im_a1 0 x7_im_a1 1e-09
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 6.593548542e-05
Fd2_1 0 s2 V1 0.003296774271
Gr1_2_1 0 s2 x1_a1 0 -353051498.4
Gr2_re_2_1 0 s2 x2_re_a1 0 -3954194805
Gr2_im_2_1 0 s2 x2_im_a1 0 -4100348979
Gr3_re_2_1 0 s2 x3_re_a1 0 -1157835790
Gr3_im_2_1 0 s2 x3_im_a1 0 1240121831
Gr4_re_2_1 0 s2 x4_re_a1 0 2569352490
Gr4_im_2_1 0 s2 x4_im_a1 0 -3671471485
Gr5_re_2_1 0 s2 x5_re_a1 0 -787015744.2
Gr5_im_2_1 0 s2 x5_im_a1 0 4229918930
Gr6_re_2_1 0 s2 x6_re_a1 0 4969128554
Gr6_im_2_1 0 s2 x6_im_a1 0 1.192601989e+10
Gr7_re_2_1 0 s2 x7_re_a1 0 -5518740253
Gr7_im_2_1 0 s2 x7_im_a1 0 -1.353086241e+10
Gd2_2 0 s2 p2 0 -0.01149510096
Fd2_2 0 s2 V2 -0.5747550482
Gr1_2_2 0 s2 x1_a2 0 3.719456765e+11
Gr2_re_2_2 0 s2 x2_re_a2 0 4.459888901e+11
Gr2_im_2_2 0 s2 x2_im_a2 0 1.265283808e+12
Gr3_re_2_2 0 s2 x3_re_a2 0 1206718781
Gr3_im_2_2 0 s2 x3_im_a2 0 -1220021643
Gr4_re_2_2 0 s2 x4_re_a2 0 2590805714
Gr4_im_2_2 0 s2 x4_im_a2 0 -3642619207
Gr5_re_2_2 0 s2 x5_re_a2 0 847746550
Gr5_im_2_2 0 s2 x5_im_a2 0 -4164045934
Gr6_re_2_2 0 s2 x6_re_a2 0 2.6172233e+10
Gr6_im_2_2 0 s2 x6_im_a2 0 -2.010089934e+10
Gr7_re_2_2 0 s2 x7_re_a2 0 2.084781176e+10
Gr7_im_2_2 0 s2 x7_im_a2 0 -151423645.6
Cx1_a2 x1_a2 0 0.002471715245
Gx1_a2 0 x1_a2 p2 0 0.0001747766611
Fx1_a2 0 x1_a2 V2 0.008738833053
Rp1_a2 0 x1_a2 1e-09
Cx2_re_a2 x2_re_a2 0 0.000628342386
Gx2_re_a2 0 x2_re_a2 p2 0 8.886103241e-05
Fx2_re_a2 0 x2_re_a2 V2 0.004443051621
Rp2_re_re_a2 0 x2_re_a2 1e-09
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 1073225546
Cx2_im_a2 x2_im_a2 0 0.000628342386
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -1073225546
Rp2_im_im_a2 0 x2_im_a2 1e-09
Cx3_re_a2 x3_re_a2 0 0.03881034056
Gx3_re_a2 0 x3_re_a2 p2 0 0.005488610998
Fx3_re_a2 0 x3_re_a2 V2 0.2744305499
Rp3_re_re_a2 0 x3_re_a2 1e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 3.592719925e+10
Cx3_im_a2 x3_im_a2 0 0.03881034056
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -3.592719925e+10
Rp3_im_im_a2 0 x3_im_a2 1e-09
Cx4_re_a2 x4_re_a2 0 0.02816494014
Gx4_re_a2 0 x4_re_a2 p2 0 0.003983124033
Fx4_re_a2 0 x4_re_a2 V2 0.1991562017
Rp4_re_re_a2 0 x4_re_a2 1e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 2.788510804e+10
Cx4_im_a2 x4_im_a2 0 0.02816494014
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -2.788510804e+10
Rp4_im_im_a2 0 x4_im_a2 1e-09
Cx5_re_a2 x5_re_a2 0 0.02832231764
Gx5_re_a2 0 x5_re_a2 p2 0 0.004005380572
Fx5_re_a2 0 x5_re_a2 V2 0.2002690286
Rp5_re_re_a2 0 x5_re_a2 1e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 3.026109416e+10
Cx5_im_a2 x5_im_a2 0 0.02832231764
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -3.026109416e+10
Rp5_im_im_a2 0 x5_im_a2 1e-09
Cx6_re_a2 x6_re_a2 0 0.01004943133
Gx6_re_a2 0 x6_re_a2 p2 0 0.001421204207
Fx6_re_a2 0 x6_re_a2 V2 0.07106021037
Rp6_re_re_a2 0 x6_re_a2 1e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 1.189747778e+10
Cx6_im_a2 x6_im_a2 0 0.01004943133
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -1.189747778e+10
Rp6_im_im_a2 0 x6_im_a2 1e-09
Cx7_re_a2 x7_re_a2 0 0.01056929241
Gx7_re_a2 0 x7_re_a2 p2 0 0.001494723668
Fx7_re_a2 0 x7_re_a2 V2 0.07473618339
Rp7_re_re_a2 0 x7_re_a2 1e-09
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 1.242993984e+10
Cx7_im_a2 x7_im_a2 0 0.01056929241
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -1.242993984e+10
Rp7_im_im_a2 0 x7_im_a2 1e-09
.ENDS two_port
